US08017804B2
1 g Boc-Dap(Fmoc)-N-palmityl-N-oleyl-amide raw product were dissolved in 8 ml anhydrous dichloromethane in a 50 ml round-bottom flask. 3 ml diethylamine were added and steered at room temperature (FIG. 4). Thin layer chromatography control of the reaction showed that after 4.5 hours the reaction of the starting product was completed. The volatile components were removed by a rotary evaporator and the residue is chromatography purified using 40 g silica gel 60 (Merck) using hexane/ethylacetate 5:1. The product was eluted using a step gradient consisting of ethylacetate, ethylacetate/methanol 4:1 and dichloromethane/methanol 4:1. 576 mg (0.85 mmol) Boc-Dap-N-palmityl-N-oleyl-amide were obtained as a yellow viscous oil.

reactant | Boc-Dap(Fmoc) N-palmityl-N-oleyl-amide | 1 g | N([C@@H](CNC(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)C(=O)O)C(=O)OC(C)(C)C.C(CCCCCCCCCCCCCCC)[N-]CCCCCCCC\C=C/CCCCCCCC
reactant | diethylamine | 3 ml | C(C)NCC | C4H11N
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | Boc-Dap N-palmityl-N-oleyl-amide | 0.85 mmol, 576 mg | N([C@@H](CN)C(=O)O)C(=O)OC(C)(C)C.C(CCCCCCCCCCCCCCC)[N-]CCCCCCCC\C=C/CCCCCCCC | InChI=1S/C34H68N.C8H16N2O4/c1-3-5-7-9-11-13-15-17-19-20-22-24-26-28-30-32-34-35-33-31-29-27-25-23-21-18-16-14-12-10-8-6-4-2;1-8(2,3)14-7(13)10-5(4-9)6(11)12/h17,19H,3-16,18,20-34H2,1-2H3;5H,4,9H2,1-3H3,(H,10,13)(H,11,12)/q-1;/b19-17-;/t;5-/m.0/s1
